US04021479
4-(3'-Chloro-4-biphenylyl)-butyric acid
Prepared analogous to Example 9 from 4-(3'-chloro-4-biphenylyl)-4-hydroxy-butyric acid. Melting point of the cyclohexylamine salt: 147°-148° C. Yield: 41% of theory.

reactant | 4-(3'-chloro-4-biphenylyl)-4-hydroxy-butyric acid | ClC=1C=C(C=CC1)C1=CC=C(C=C1)C(CCC(=O)O)O | C16H15ClO3
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 4-(3'-Chloro-4-biphenylyl)-butyric acid | Yield: 41% | ClC=1C=C(C=CC1)C1=CC=C(C=C1)CCCC(=O)O | C16H15ClO2
